US08664220B2
Step 1: 1-(4′-{4-[3-(4-Bromo-phenyl)-pyrazol-1-ylmethyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 5, Step 3, using 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 3-(4-bromo-phenyl)-1H-pyrazole.

reactant | 1-[4′-(4-bromomethyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CBr | C23H22BrNO3
reactant | 3-(4-bromo-phenyl)-1H-pyrazole | BrC1=CC=C(C=C1)C1=NNC=C1 | C9H7BrN2
product | 1-(4′-{4-[3-(4-Bromo-phenyl)-pyrazol-1-ylmethyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CN1N=C(C=C1)C1=CC=C(C=C1)Br | C32H28BrN3O3
